US04954518
3-(4-Chlorobutyrylamino)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with sodium hydride in N,N-dimethylformamide to obtain 7-methylsulfonylamino-3-(2-oxopyrrolidin-1-yl)-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 3-(4-Chlorobutyrylamino)-7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | ClCCCC(=O)NC1=COC2=C(C1=O)C=C(C(=C2)NS(=O)(=O)C)OC2=CC=CC=C2 | C20H19ClN2O6S
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 7-methylsulfonylamino-3-(2-oxopyrrolidin-1-yl)-6-phenoxy-4H-1-benzopyran-4-one | CS(=O)(=O)NC1=CC2=C(C(C(=CO2)N2C(CCC2)=O)=O)C=C1OC1=CC=CC=C1 | C20H18N2O6S
